US07501425B1
1-Cyclopentyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
To a solution of 2.0 g (7.1 mmol) of 1-cyclopentyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 2.7 g (14.3 mmol) of 1-(4-aminophenyl)-4-methylpiperazine in 32 mL of acetonitrile is added 2.75 mL (35.7 mmol) of trifluoroacetic acid. The mixture is heated at 85° C. overnight. The cooled reaction mixture is diluted with ethyl acetate and washed two times with saturated aqueous sodium bicarbonate solution and once with brine. The combined aqueous phase is back extracted with dichloromethane. The combined organic phase is dried over magnesium sulfate and concentrated. The dark solid residue is stirred for 2 hours in 30 mL of 1:1 dichloromethane/ethyl acetate, filtered, washed with ethyl acetate, and dried to give 2.3 g (80%) of the title compound: mp 236-239° C. (dec).

reactant | 1-cyclopentyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 7.1 mmol, 2.0 g | C1(CCCC1)N1C(NCC=2C1=NC(=NC2)S(=O)C)=O | C12H16N4O2S
reactant | 1-(4-aminophenyl)-4-methylpiperazine | 14.3 mmol, 2.7 g | NC1=CC=C(C=C1)N1CCN(CC1)C | C11H17N3
reactant | trifluoroacetic acid | 35.7 mmol, 2.75 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 32 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Cyclopentyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 2.3 g, 80% | C1(CCCC1)N1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C22H29N7O
